US09315521B2
N,N-dimethyl-1H-pyrazole-1-sulfonamide (8.89 g, 50.8 mmol) was dissolved in anhydrous THF (250 mL). The solution was cooled at −78° C., a solution of n-butyl lithium (32.6 mL, 81.4 mmol, 2.5 M in hexane) was added dropwise, and then the mixture was stirred for 45 minutes. A solution of hexachloroethane (18.0 g, 76.3 mmol) in anhydrous THF (20 mL) was added dropwise at −78° C., and the reaction stirred for 1.5 hours. Water was added, and the mixture was extracted 5 times with dichloromethane. The combined organic phases were washed with brine and then dried over magnesium sulfate. After evaporation of the solvent, 5-chloro-N,N-dimethyl-1H-pyrazole-1-sulfonamide was obtained and used in the next step without further purification.

reactant | N,N-dimethyl-1H-pyrazole-1-sulfonamide | 50.8 mmol, 8.89 g | CN(S(=O)(=O)N1N=CC=C1)C | C5H9N3O2S
reactant | n-butyl lithium | 81.4 mmol, 2.5 M, 32.6 mL | C(CCC)[Li]
reactant | hexachloroethane | 76.3 mmol, 18.0 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | Water | O | H2O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-chloro-N,N-dimethyl-1H-pyrazole-1-sulfonamide | ClC1=CC=NN1S(=O)(=O)N(C)C | C5H8ClN3O2S
